US08106190B2
In DMF, 6-amino-4-(trifluoromethyl)-1,3-dihydro-2H-indol-2-one and ethyl 1,3-dioxo-1,3-dihydro-2H-isoindol-2-carboxylate were allowed to undergo the reaction at 60° C. for 18 hours in the presence of triethylamine. Water was added to the reaction liquid and the resulting precipitate was collected by filtration to obtain 2-[2-oxo-4-(trifluoromethyl)-2,3-dihydro-1H-indol-6-yl]-1H-isoindol-1,3-(2H)-dione.

reactant | 6-amino-4-(trifluoromethyl)-1,3-dihydro-2H-indol-2-one | NC1=CC(=C2CC(NC2=C1)=O)C(F)(F)F | C9H7F3N2O
reactant | ethyl 1,3-dioxo-1,3-dihydro-2H-isoindol-2-carboxylate | O=C1N(C(C2=CC=CC=C12)=O)C(=O)OCC | C11H9NO4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[2-oxo-4-(trifluoromethyl)-2,3-dihydro-1H-indol-6-yl]-1H-isoindol-1,3-(2H)-dione | O=C1NC2=CC(=CC(=C2C1)C(F)(F)F)N1C(C2=CC=CC=C2C1=O)=O | C17H9F3N2O3
